US05578325
BTCA was reacted with two equivalents of methoxy PEG amine in refluxing THF for 5 hours to yield dimethoxy-PEG tetracarboxybenzoate, with two remaining carboxylic groups. The PEG-dimer was reacted with acetic anhydride and then with sebacic anhydride to form the tetra-armed diblock PEG2 -benzene-PSA2.

reactant | BTCA | C(C(F)(F)F)N(CC(F)(F)F)C(=S)S | C5H5F6NS2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | THF | C1CCOC1 | C4H8O
product | sebacic anhydride | C1(CCCCCCCCC(=O)O1)=O | C10H16O3
